US05744488
Methyl 5-(2-carboxyethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate
A solution of benzyl (E)-3-[3-(1H-imidazol-1-ylmethyl)-1-(2-methoxycarbonylethyl)-2-methyl-1H-indol-5-yl]-2-propenoate (2.0 g) in tetrahydrofuran (40 ml) was hydrogenatedat room temperature and 4.5 atm. in the presence of 10% palladium on carbon(0.20 g) until reaction was complete (5 hours). The mixture was filtered and the residue was washed with ethyl acetate. The combined filtrate and washings were evaporated and the residue was triturated with ether to givethe title compound (1.52 g), m.p. 134°-137° C. Found: C,65.31; H,6.35; N,10.70. C20H23N3O4 requires: C,65.02; H,6.28N,11.38%.

reactant | benzyl (E)-3-[3-(1H-imidazol-1-ylmethyl)-1-(2-methoxycarbonylethyl)-2-methyl-1H-indol-5-yl]-2-propenoate | 2.0 g | N1(C=NC=C1)CC1=C(N(C2=CC=C(C=C12)/C=C/C(=O)OCC1=CC=CC=C1)CCC(=O)OC)C | C27H27N3O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | Methyl 5-(2-carboxyethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | C(=O)(O)CCC=1C=C2C(=C(N(C2=CC1)CCC(=O)OC)C)CN1C=NC=C1 | C20H23N3O4
